US04137406
Methyl α-methylthio(3-thienyl)acetate (5.045 g) was dissolved in 60 ml of 1,2-dimethoxyethane, and 20 ml of a 2N aqueous solution of potassium hydroxide was added. The mixture was stirred at room temperature for 3 hours and 10 minutes. To the reaction mixture were added 30 ml of water and 6 ml of 3N sulfuric acid. The mixture was extracted three times with 50 ml of diethyl ether. The ethereal layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Recrystallization of the residue from benzene/n-hexane afforded 3.291 g of α-methylthio(3-thienyl)acetic acid as pale yellow crystals having a melting point of 73.5 to 74.0° C.

reactant | Methyl α-methylthio(3-thienyl)acetate | 5.045 g | CSC(C(=O)OC)C1=CSC=C1 | C8H10O2S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 30 ml | O | H2O
reactant | sulfuric acid | 3N, 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dimethoxyethane | 60 ml | COCCOC | C4H10O2
product | α-methylthio(3-thienyl)acetic acid | 3.291 g | CSC(C(=O)O)C1=CSC=C1 | C7H8O2S2
